US03976660
To a stirred solution of 21.6 g. (0.10 mol.) of N-t-butoxycarbonyl-DL-proline in 100 ml. of dry tetrahydrofuran at room temperature is added 50 ml. of a 1 molar diborane solution in tetrahydrofuran at such a rate that the temperature of the reaction mixture is maintained at 25°-30°. After the addition is complete, the reaction mixture is stirred at room temperature for an additional hour. Water is then cautiously added to the reaction mixture, the tetrahydrofuran is removed in vacuo, the residue is diluted with ether, and this solution is washed thoroughly with 5% aqueous sodium hydroxide. The ether solution is dried and concentrated in vacuo to obtain 1-(t-butoxycarbonyl)-2-pyrrolidinemethanol.

reactant | N-t-butoxycarbonyl-DL-proline | 0.10 mol | C(C)(C)(C)OC(=O)N1C(C(=O)O)CCC1 | C10H17NO4
reactant | diborane | 1 molar | B#B | B2
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(t-butoxycarbonyl)-2-pyrrolidinemethanol | C(C)(C)(C)OC(=O)N1C(CCC1)CO | C10H19NO3
